US07977477B2
A mixture of 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.16 mmol), 2,4 difluorophenyl isocyanate (26 mg, 0.16 mmol) and Et3N (0.024 ml) suspended in a mixture of toluene (2 ml) and IPA (1 ml) was stirred at 80° C. for 1 h and then diluted with EtOAc. The reaction mixture was washed with water then brine, organics dried (MgSO4) and reduced in vacuo The residue was purified by flash column chromatography [SiO2, CH2Cl2-MeOH (90:10)] to give 1-(2,6-Difluorophenyl)-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-urea (AT7787) as a colourless solid (30 mg, 39%). (LC/MS (acidic method): Rt 1.80, [M+H]+ 454).

reactant | 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.16 mmol, 50 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
reactant | 2,4 difluorophenyl isocyanate | 0.16 mmol, 26 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | Et3N | 0.024 ml | CCN(CC)CC | C6H15N
reactant | IPA | 1 ml | CC(C)O | C3H8O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2,6-Difluorophenyl)-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-urea | 30 mg, 39% | FC1=C(C(=CC=C1)F)N(C(=O)N)C=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | C22H21F2N7O2
